US08877782B2
6-[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide
As described for example 98b, 6-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (56 mg, 0.16 mmol) was converted, instead of 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid, using 2-amino-2-methyl-1-propanol instead of 2,2,2-trifluoroethylamine, to the title compound (36 mg, 53%) which was obtained as a white solid. MS: m/e=417.3 [M+H]+.

reactant | 6-[3-(5-chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.16 mmol, 56 mg | ClC=1C=CC(=NC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C16H12ClN3O4
reactant | 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | ClC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 6-[3-(5-Chloro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-(2-hydroxy-1,1-dimethyl-ethyl)-nicotinamide | 36 mg, 53% | ClC=1C=CC(=NC1)C1=NOC(=C1COC1=NC(=C(C(=O)N)C=C1)C(CO)(C)C)C | C20H21ClN4O4
